*****************************************************************
* NXP BUK9Y11-80E
*
* Polarity N-Channel
* Ratings 80V/1.100000E-002OHMS/83.9142297734731A
*
* Date Created Tue Feb 05 08:49:18 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y11-80E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 8000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00647856158179593 TC=0.00558871231234118,1.79342938454354E-05
RBD 9 4 0.000529608738761775 TC=0.00558871231234118,1.79342938454354E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 2.6e-09
RG 1 2 2.57663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	265.066
+ -16	270.816
+ -10	288.363
+ -5	306.262
+ -4	311.825
+ -3	317.262
+ -2	342.315
+ -1	417.141
+ -0.5	481.498
+ -0.2	525.551
+ -0.1	622.782
+ 0	619.0755
+ 0.1	622.455
+ 0.2	512.988
+ 0.5	435.907
+ 1	328.157
+ 2	238.443
+ 3	221.03
+ 4	214.318
+ 5	208.113
+ 6	202.601
+ 8	194.597
+ 10	188.818
+ 12	184.076
+ 15	178.126
+ 20	170.36
+ 25	164.327
+ 30	159.578
+ 50	148.003




.MODEL MINT NMOS(Vto=2.11780790897963 Kp=400 Nfs=430000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=5.27288297755488e-13
+ N=1 M=0.67 VJ=0.69 Fc=0.5 Cjo=1.665201e-09 Tt=2.838664e-08)

.ENDS

